US07601716B2
{4-[5-(3-Chlorophenoxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]-phenyl}-(4-methylpiperazin-1-yl)methanone
[4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone (20 mg) was reacted with 3-chlorophenol (21.8 mg) as in General Procedure 12. Silica gel chromatography using a gradient of 0-15% methanol/CH2Cl2 as the eluting solvent gave the title compound as a yellow foam (50% yield). LCMS: m/z=463.12(M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.00-2.12 (m, 1H), 2.27-2.33 (m, 1H), 2.33 (s, 3H), 2.34-2.6 (m, 4H), 3.4-3.7 (m, 4H), 3.7-3.9 (m, 2H), 5.18 (bs, 1H), 5.38 (t, J=3.6 Hz, 1H), 6.91 (dd, J=1.6 and 8.3 Hz, 1H), 6.99-7.04 (m, 2H), 7.23-7.27 (m, 1H), 7.43-7.50 (m, 4H), 7.61 (d, J=2.0 Hz), 8.30 (d, J=2.2 Hz).

reactant | [4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone | 20 mg | OC1C=2C=C(C=NC2NCC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C20H24N4O2
reactant | 3-chlorophenol | 21.8 mg | ClC=1C=C(C=CC1)O | C6H5ClO
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | {4-[5-(3-Chlorophenoxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]-phenyl}-(4-methylpiperazin-1-yl)methanone | 50% yield | ClC=1C=C(OC2C=3C=C(C=NC3NCC2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C)C=CC1 | C26H27ClN4O2
